US06310070B1
12.8 g (60 mmol) of 4-benzylideneamino-5-imidazole carboxamide which is an intermediate material obtained in the Reference Example 1 was suspended in a mixed solvent of 240 ml dimethylformamide and 30 ml distilled water, and 16.6 g (120 mmol) of potassium carbonate was added to the suspension. 13.8 ml of benzyl chloride was added dropwise to the solution over 45 minutes at 80° C. After the addition, the mixture was stirred for one hour. The solvent was evaporated under vacuum, the residue was dissolved in chloroform, and the chloroform layer was washed with distilled water. Crude crystals obtained after evaporation of solvent was recrystallized from ethanol to obtain 14.4 g of 4-benzylideneamino-1-benzyl-5-imidazole carboxamide (yield 79%).

reactant | 4-benzylideneamino-5-imidazole carboxamide | 60 mmol, 12.8 g | C(C1=CC=CC=C1)=NC=1N=CNC1C(=O)N | C11H10N4O
reactant | dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 120 mmol, 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 13.8 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | O | H2O
product | 4-benzylideneamino-1-benzyl-5-imidazole carboxamide | 14.4 g, yield 79% | C(C1=CC=CC=C1)=NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C18H16N4O
